US09371320B2
E) 1,3-diphenyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one
To a solution of 7-methoxy-1,3-diphenyl-1H-pyrazolo[3,4-c]pyridine (75 mg) in acetonitrile (10 mL) were added sodium iodide (75 mg) and chloro(trimethyl)silane (216 mg), and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane), and crystallized from ethyl acetate and hexane to give the title compound (45 mg).

reactant | 7-methoxy-1,3-diphenyl-1H-pyrazolo[3,4-c]pyridine | 75 mg | COC=1N=CC=C2C1N(N=C2C2=CC=CC=C2)C2=CC=CC=C2 | C19H15N3O
reactant | sodium iodide | 75 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 216 mg | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1,3-diphenyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 45 mg | C1(=CC=CC=C1)N1N=C(C2=C1C(NC=C2)=O)C2=CC=CC=C2 | C18H13N3O
